US08685959B2
Synthesis of ((S)-4-(1-((R)-1-(2,4-dichlorophenyl)ethyl)-1H-indazol-6-yl)-2-(hydroxymethyl)piperazin-1-yl)((R)-pyrrolidin-2-yl)methanone (see FIG. 22)
To a stirred solution of the ((S)-4-(1-((R)-1-(2,4-dichlorophenyl)ethyl)-1H-indazol-6-yl)piperazin-2-yl)methanol (0.072 g, 0.18 mmol) and (R)-1-(t-butoxycarbonyl)pyrrolidine-2-carboxylic acid (0.078 g, 0.36 mmol) in dichloromethane (2.0 mL) was added HATU (0.14 g, 0.36 mmol) and iPr2NEt (0.10 mL, 0.57 mmol). The reaction mixture was stirred at room temperature for 30 min, and was then diluted with dichloromethane. The mixture was washed with deionized water, and the aqueous layer was extracted with dichloromethane (2×15 mL). The combined organic layers were dried (Na2SO4), filtered, and concentrated in vacuo. The crude product was purified by flash chromatography (SiO2, 30-100% ethyl acetate in hexanes) to afford the desired product (0.072 g, 0.12 mmol, 30% for 2 steps).

reactant | ((S)-4-(1-((R)-1-(2,4-dichlorophenyl)ethyl)-1H-indazol-6-yl)piperazin-2-yl)methanol | 0.18 mmol, 0.072 g | ClC1=C(C=CC(=C1)Cl)[C@@H](C)N1N=CC2=CC=C(C=C12)N1C[C@H](NCC1)CO | C20H22Cl2N4O
reactant | (R)-1-(t-butoxycarbonyl)pyrrolidine-2-carboxylic acid | 0.36 mmol, 0.078 g | C(C)(C)(C)OC(=O)N1[C@H](CCC1)C(=O)O | C10H17NO4
reactant | HATU | 0.36 mmol, 0.14 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | iPr2NEt | 0.57 mmol, 0.10 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 2.0 mL | ClCCl | CH2Cl2
product | ((S)-4-(1-((R)-1-(2,4-dichlorophenyl)ethyl)-1H-indazol-6-yl)-2-(hydroxymethyl)piperazin-1-yl)((R)-pyrrolidin-2-yl)methanone | 0.12 mmol, 0.072 g, 30% | ClC1=C(C=CC(=C1)Cl)[C@@H](C)N1N=CC2=CC=C(C=C12)N1C[C@H](N(CC1)C(=O)[C@@H]1NCCC1)CO | C25H29Cl2N5O2
